US07615642B2
Step C. (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidine-3-carboxylic acid
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride (1.2 g, 2.9 mmol) was added to a solution of (3S)-3-carboxypyrrolidinium trifluoroacetate (0.50 g, 2.3 mmol) and DIPEA (3 mL, 17 mmol) in DCE (20 mL) at 80° C. The reaction mixture was stirred for 2 hrs. and the solvent was concentrated. The product was purified by MPLC on silica gel using 30% acetone in DCM containing 1% of AcOH to provide the title compound as white solid. Yield: 600 mg (42%); MS (ESI) (M+H)+=484.1.

reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazole-5-sulfonyl chloride | 2.9 mmol, 1.2 g | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)Cl | C18H23ClF2N2O2S
reactant | (3S)-3-carboxypyrrolidinium trifluoroacetate | 2.3 mmol, 0.50 g | FC(C(=O)[O-])(F)F.C(=O)(O)[C@@H]1C[NH2+]CC1
reactant | DIPEA | 17 mmol, 3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidine-3-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@H](CC2)C(=O)O | C23H31F2N3O4S
